US09422298B2
TFA (7.87 mL, 103 mmol) was added to a solution of tert-butyl 1-(pyrimidine-2-yl)piperidin-4-ylcarbamate (2.86 g, 10.3 mmol) in DCM (60 mL) at at 0° C. The reaction mixture was stirred for 2 h at room temperature and removed the solvent under reduced pressure. The residue was re-dissolved in DCM, and neutralized with aq. Na2HCO3. The solvents were removed by evaporation, the resulting residue was purified by column chromatography (DCM:MeOH:NH4OH=10:1:0.1) to give 1-(pyrimidin-2-yl)piperidin-4-amine (1.68 g, 92%) as a white solid. 1H-NMR (CD3OD, Varian 400 MHz) δ 1.26-1.37 (2H, m), 1.75-1.99 (2H, m), 2.76-2.98 (2H, m), 2.86-3.05 (1H, m), 4.64-4.72 (2H, m), 6.53 (1H, t, J=4.8 Hz), 8.27 (2H, d, J=4.8 Hz). m/z=179.04 [M+1]+.

reactant | TFA | 103 mmol, 7.87 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 1-(pyrimidine-2-yl)piperidin-4-ylcarbamate | 10.3 mmol, 2.86 g | N1=C(N=CC=C1)N1CCC(CC1)NC(OC(C)(C)C)=O | C14H22N4O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 1-(pyrimidin-2-yl)piperidin-4-amine | 1.68 g, 92% | N1=C(N=CC=C1)N1CCC(CC1)N | C9H14N4
